US08895580B2
Step 1: Preparation of ethyl 3-[2-fluoro-6-(methyloxy)phenyl]-3-oxopropanoate
Potassium ethylmalonate (2.1 g, 12 mmol, 2.1 equiv) was suspended in acetonitrile (20 mL), cooled to 5° C. and treated with successively with triethylamine (2.6 mL, 18 mmol, 3.2 equiv) and magnesium(II) chloride (1.4 g, 14 mmol, 2.5 equiv). The ice bath was removed and the mixture was warmed and stirred at ambient temperature for 2.5 hours. An acetonitrile solution (5 mL) of 2-fluoro-6-(methyloxy)benzoyl chloride (1.1 g, 5.8 mmol) was added and the mixture was stirred for 2 hours at ambient temperature. The mixture was concentrated in vacuo and the residue was suspended in toluene (50 mL), cooled to 0° C. and treated with hydrochloric acid (20 mL, 12 N aqueous) with vigorous stirring. The ice bath was removed after 10 minutes and the mixture was warmed to ambient temperature and stirred for an additional 15 minutes. The mixture was poured into water (50 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 1:1; hexanes:ethyl acetate), providing the titled compound.

reactant | Potassium ethylmalonate | 12 mmol, 2.1 g, 2.1 equiv | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | triethylamine | 18 mmol, 2.6 mL, 3.2 equiv | C(C)N(CC)CC | C6H15N
reactant | magnesium(II) chloride | 14 mmol, 1.4 g, 2.5 equiv | [Cl-].[Mg+2].[Cl-]
reactant | 2-fluoro-6-(methyloxy)benzoyl chloride | 5.8 mmol, 1.1 g | FC1=C(C(=O)Cl)C(=CC=C1)OC | C8H6ClFO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 3-[2-fluoro-6-(methyloxy)phenyl]-3-oxopropanoate | FC1=C(C(=CC=C1)OC)C(CC(=O)OCC)=O | C12H13FO4
